US03983128
d. 4-Chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-methanol
63 g. of 4-Chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (0.235 mol.) are dissolved in 360 ml. of anhydrous tetrahydrofuran. Nitrogen is passed through the flask and while stirring and cooling with tap water, 5.2 g. of lithium aluminium hydride is added a bit at a time so that the reaction temperature does not exceed 25°. Stirring is continued for 2 hours at room temperature. Without further stirring the reaction mixture is allowed to stand over night. Then 300 ml. of 3N-hydrochloric acid is added while stirring and cooling with ice-water to keep the temperature between 15° and 20°. The clear solution is evaporated to dryness in vacuo, the residue is treated with 100 ml of water and precipitated starting material (5-6 g.) is filtered off. Then the filtrate is diluted with 300 ml. of water and refrigerated over night. 32- 39.3 g. (60-74%) of 4-chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-methanol which crystallizes is filtered and dried at 70°, m.p. 119°-21°. The compound is recrystallized from acetonitrile, m.p. 121°-122°. Acidification of the aqueous mother liquor with hydrochloric acid, evaporation in vacuo and extraction of the residue by means of boiling acetonitrile yielded up to 15 g. of the starting material in form of the hydrochloride.

reactant | 4-Chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.235 mol | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2C)CC)Cl | C12H14ClN3O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-Chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-methanol | ClC1=C2C(=NC=C1CO)N(N=C2C)CC | C10H12ClN3O
